US06593467B2
To a solution of 39.2 g (0.13 m) of 2′,3′-O-isopropylidene-5-fluorouridine in 55 ml of methylene chloride and 159 ml (1.98 m) of pyridine, cooled to +5° C., 60 g (0.315 m) of p-toluenesulfonyl chloride are added. The mixture thus obtained is stirred for 5 hours observing the formation of a plentiful precipitate. Then 160 ml of methylene chloride and 160 ml of water are added thereinto, whereby the temperature rises to 40° C. The phases are separated and the organic one is extracted with about 900 ml of N HCl; then the organic phase is washed with 2×100 ml of water. The organic phase, containing 0.117 m of 2′,3′-O-isopropylidene-5′-O-(p-toluenesulfonyl)-5-fluorouridine (yield —90% of the theoretical), is concentrated under vacuum until an oily residue is obtained, which is taken up with 2×100 ml of acetone. The oily residue is dissolved with 600 ml of acetone and 105 g (0.70 m) of sodium iodide are added to the solution. The mixture is heated for 5 hours at reflux, then cooled, concentrated under vacuum and the residue thus obtained is taken up with 2×80 ml of ethyl acetate. The residual oil is treated with 800 ml of ethyl acetate and 100 ml of water. The phases are separated and the aqueous one is treated with 2×80 ml of ethyl acetate. The collected organic phases are washed with 2×100 ml of a 5% aqueous solution of sodium metabisulphite, then with 100 ml of water. The organic phase, containing 0.113 m of 5′-deoxy-5′-iodo-2′,3′-0-isopropylidene-5-fluoro uridine (yield —97% of the theoretical), is concentrated under vacuum to a small volume; to the residue 560 ml of 80% aqueous acetic acid are added and the mixture is heated to 95° C. After 4-hour heating, a check by HPLC is performed (0.34% of residual starting product) After cooling, the mixture is concentrated under vacuum until an oily residue is obtained, which is taken up with 150 ml of ethyl acetate. The mixture is let to stand at 20÷25° C. for 15 ore. The product is filtered, washed with ethyl acetate and dried under vacuum at 45° C. Thus, 44.5 g of 5′-deoxy-5′-iodo-5-fluorouridine are obtained. M.p.=174÷175° C., purity (HPLC)=99.74% and [α]D=÷8.96° C. (c=1, CH3OH). The mother liquors are concentrate under vacuum and the residue is taken up with 50 ml of ethyl acetate; after 15 hours at +5° C., a further amount of 3.3 g of product are obtained. Total yield. 83% of the theoretical.

reactant | 2′,3′-O-isopropylidene-5-fluorouridine | 39.2 g | CC1(OC2[C@H](O[C@H](C2O1)N3C=C(C(=O)NC3=O)F)CO)C | C12H15FN2O6
reactant | p-toluenesulfonyl chloride | 60 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium iodide | 105 g | [I-].[Na+]
solvent | methylene chloride | 55 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 159 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 160 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 800 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | acetone | 600 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | water | 160 ml | O | H2O
product | 5′-deoxy-5′-iodo-5-fluorouridine | 44.5 g, yield —90% | IC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)F)O)O | C9H10FIN2O5
